.title kicad schematic

.include PNP.lib
.include NPN.lib
q3 net-_q1-pad2_ net-_q3-pad2_ net-_q1-pad3_ Q2N2222
q1 net-_c1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q6 net-_q3-pad2_ net-_q3-pad2_ net-_q1-pad3_ Q2N2222
q5 net-_c2-pad2_ net-_q5-pad2_ net-_q3-pad2_ Q2N2222
q8 net-_q5-pad2_ net-_q5-pad2_ net-_q3-pad2_ Q2N2222
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q1-pad3_ Q2N2222
q9 net-_q12-pad2_ net-_q12-pad2_ net-_q10-pad1_ Q2N2222
q12 net-_q11-pad2_ net-_q12-pad2_ net-_q10-pad2_ Q2N2222
r7 net-_q17-pad2_ net-_c1-pad1_ 15.6k
* u1 net-_c1-pad1_ net-_r10-pad2_ net-_q1-pad3_ port
r6 net-_c2-pad1_ net-_c1-pad1_ 49k
r4 net-_q16-pad1_ net-_c1-pad1_ 49k
q17 net-_c2-pad1_ net-_q17-pad2_ net-_q15-pad1_ Q2N2222
q16 net-_q16-pad1_ net-_q16-pad2_ net-_q15-pad1_ Q2N2222
q14 net-_q11-pad2_ net-_q11-pad2_ net-_c1-pad1_ Q2N2907A
r8 net-_q16-pad2_ net-_q17-pad2_ 600
r5 net-_q1-pad3_ net-_q15-pad3_ 1.1k
q15 net-_q15-pad1_ net-_q10-pad1_ net-_q15-pad3_ Q2N2222
r9 net-_q1-pad3_ net-_q16-pad2_ 13.8k
r10 net-_q16-pad2_ net-_r10-pad2_ 10k
q13 net-_q10-pad2_ net-_q10-pad1_ net-_q13-pad3_ Q2N2222
r3 net-_q1-pad3_ net-_q13-pad3_ 2k
q2 net-_c1-pad1_ net-_c2-pad2_ net-_q1-pad2_ Q2N2222
c1 net-_c1-pad1_ net-_c1-pad2_ 3pf
r1 net-_c1-pad2_ net-_c2-pad2_ 10k
q4 net-_c2-pad2_ net-_c2-pad1_ net-_q11-pad1_ Q2N2907A
r2 net-_q12-pad2_ net-_c1-pad1_ 50k
q11 net-_q11-pad1_ net-_q11-pad2_ net-_c1-pad1_ Q2N2907A
c2 net-_c2-pad1_ net-_c2-pad2_ 3pf
q7 net-_q5-pad2_ net-_q16-pad1_ net-_q11-pad1_ Q2N2907A
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
